US07846935B2
4-Methylmorpholine (0.90 mL, 8.19 mmol) was added to a suspension of 2-(1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate (HBTU, 1.55 g, 4.10 mmol), 1-hydroxybenzotriazole monohydrate (627 mg, 4.10 mmol) and 4-(4-propylpiperazin-1-yl)benzoic acid (85% wt., 1.25 g, 4.29 mmol) in dimethylformamide (6 mL). The suspension was shaken for 5 minutes then added to a stirred solution of (S)-2-amino-1-((3R,3aR,6aR)-3-hydroxydihydro-2H-furo[3,2-b]pyrrol-4(5H,6H,6aH)-yl)-4-methylpentan-1-one hydrochloride (prepared as above, assume 3.90 mmol) in dimethylformamide (10 mL). Residual material was washed into the reaction flask using dimethylformamide (2×2 mL). After 2.5 hours the majority of solvents were removed in vacuo. The residue was dissolved in dichloromethane (100 mL) and washed with saturated sodium hydrogen carbonate solution (75 mL). The aqueous phase was extracted with dichloromethane (2×50 mL) then the combined organic layers washed with brine (50 mL), then dried (Na2SO4), filtered and reduced in vacuo. Flash chromatography over silica, eluting with heptane:ethyl acetate mixtures 100:0:0 to 100 then methanol:dichloromethane mixtures 1:99 to 5:95 gave N—((S)-1-((3R,3aR,6aR)-3-hydroxydihydro-2H-furo[3,2-b]pyrrol-4(5H,6H, 6aH)-yl)-4-methyl-1-oxopentan-2-yl)-4-(4-propylpiperazin-1-yl)benzamide as an off-white solid (1.67 g, 91%). TLC (Rf=0.15-0.25 double spot, MeOH:CH2Cl2 1:19), analytical HPLC main peak, Rt=10.11 min., HPLC-MS 473.3 [M+H]+, 967.6 [2M+Na]+; [α]D19.5+2.99° (c=6.7, CHCl3); δH (500 MHz, CDCl3) mixture of rotamers major:minor 2:1; 0.93 (3H, t, J=7.39 Hz, CH2CH3), 0.92-1.02 (6H, m, CH(CH3)2), 1.47-1.86 (5.67H, m, CH2CH(CH3)2 CH2CH3 and NCH2CH2CH major), 1.97-2.06 (0.33H, m, NCH2CH2CH minor), 2.05 (0.67H, dd, J=13.83 and 6.17 Hz, NCH2CH2CH major), 2.18 (0.33H, dd, J=13.80 and 6.33 Hz, NCH2CH2CH minor), 2.35-2.34 (2H, m, NCH2CH2CH3), 2.57-2.61 (4H, m, CH2CH2NCH2CH2CH3), 3.22-3.30 (0.67H, m, NCH2CH2CH major), 3.29-3.34 (4H, m, CH2CH2NCH2CH2CH3), 3.47-3.54 (0.33H, m, NCH2CH2CH minor), 3.52 (0.67H, dd, J=9.46 and 7.87 Hz, OCH2CHOH major), 3.66 (0.33H, dd, J=9.57 and 5.27 Hz, OCH2CHOH minor), 3.89 (0.67H, dd, J=11.84 and 8.48 Hz, NCH2CH2CH major), 4.04 (0.33H, brt, J=8.91 Hz, NCH2CH2CH minor), 4.04 (0.33H, dd, J=9.55 and 5.15 Hz, OCH2CHOH minor), 4.17 (0.67H, dd, J=9.50 and 6.92 Hz, OCH2CHOH major), 4.23-4.30 (2H, m, OCH2CHOHCH), 4.70 (0.33H, brt, J=4.76 Hz, NCH2CH2CH minor), 4.76 (0.67H, brt, J=5.24 Hz, NCH2CH2CH major), 5.00-5.05 (0.33H, m, CHCH2C(CH3)3 minor), 5.23-5.28 (0.67H, m, CHCH2C(CH3)3 major), 5.94 (0.67H, brd, J=4.68 Hz, OH major), 6.69 (0.67H, d, J=9.82 Hz, NH major), 6.58 (0.33H, d, J=8.32 Hz, NH minor), 6.86 (2H, d, J=8.98 Hz, aromatic CH), 7.69-7.72 (2H, m, aromatic CH); δC (125 MHz, CDCl3) 11.88 (CH2CH3), 19.90/19.92 (CH2CH3), 22.00/22.07/23.32/23.37/24.70 and 24.86 (CH(CH3)2), 30.06/31.67 (NCH2CH2CH), 42.17/42.57/44.07 and 45.68 (NCH2CH2CH and CH2CH(CH3)2), 47.56/47.69 (NCH2CH2NCH2CH2CH3), 49.17/49.21 (CHCH2CH(CH3)2), 52.85/52.89 (NCH2CH2NCH2CH2CH3), 60.38/60.57 (NCH2CH2CH3), 71.27/71.43 (NCH2CH2CHCH), 73.08/74.11 (OCH2CHOH), 77.35/79.71 (CHOH), 81.00/83.41 (NCH2CH2CH), 113.97/114.12/128.51 and 128.77 (aromatic CH), 122.27/123.32 (aromatic quaternary), 153.47/153.74 (aromatic quaternary), 166.68/167.61 (NHC═O), 171.63/172.32 (CH2NC═O).

reactant | 4-Methylmorpholine | 8.19 mmol, 0.90 mL | CN1CCOCC1 | C5H11NO
reactant | 2-(1H-benzotriazole-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate | 4.10 mmol, 1.55 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | 1-hydroxybenzotriazole monohydrate | 4.10 mmol, 627 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 4-(4-propylpiperazin-1-yl)benzoic acid | 4.29 mmol, 1.25 g | C(CC)N1CCN(CC1)C1=CC=C(C(=O)O)C=C1 | C14H20N2O2
reactant | (S)-2-amino-1-((3R,3aR,6aR)-3-hydroxydihydro-2H-furo[3,2-b]pyrrol-4(5H,6H,6aH)-yl)-4-methylpentan-1-one hydrochloride | 3.90 mmol | Cl.N[C@H](C(=O)N1[C@H]2[C@@H](CC1)OC[C@@H]2O)CC(C)C
solvent | dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
product | N—((S)-1-((3R,3aR,6aR)-3-hydroxydihydro-2H-furo[3,2-b]pyrrol-4(5H,6H, 6aH)-yl)-4-methyl-1-oxopentan-2-yl)-4-(4-propylpiperazin-1-yl)benzamide | 1.67 g, 91% | O[C@H]1CO[C@H]2[C@@H]1N(CC2)C([C@H](CC(C)C)NC(C2=CC=C(C=C2)N2CCN(CC2)CCC)=O)=O | C26H40N4O4
